US08389553B2
4-({[(dimethylamino)sulfonyl]amino}methyl)benzoic acid
Methyl 4-({[(dimethylamino)sulfonyl]amino}methyl)benzoate (0.25 g, 0.918 mmol) was dissolved in THF (5 ml). Potassium hydroxide (5 ml, 10.00 mmol) was added. The reaction was heated to 50° C. for 3.5 h, until reaction was complete as indicated by LCMS. Hydrochloric acid (5 ml, 2N) was added. The reaction was concentrated under reduced pressure. The resulting material was dissolved in organic solvent DCM/MeOH and washed with brine. The aqueous layer was extracted with DCM/MeOH two times. The combined organic layers were dried over Na2SO4, filtered, and concentrated. 1H NMR (d6-DMSO, 600 MHz) δ 12.88 (s, 1H), 7.88 (d, J=8.5 Hz, 2H), 7.76 (t, J=6.5 Hz, 1H), 7.42 (d, J=8.5 Hz, 2H), 4.14 (d, J=6.5 Hz, 2H), 2.59 (s, 6H). MS: cal'd 259 (MH+), exp 259 (MH+).

reactant | Methyl 4-({[(dimethylamino)sulfonyl]amino}methyl)benzoate | 0.918 mmol, 0.25 g | CN(S(=O)(=O)NCC1=CC=C(C(=O)OC)C=C1)C | C11H16N2O4S
reactant | Potassium hydroxide | 10.00 mmol, 5 ml | [OH-].[K+]
reactant | Hydrochloric acid | 2N, 5 ml | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 4-({[(dimethylamino)sulfonyl]amino}methyl)benzoic acid | CN(S(=O)(=O)NCC1=CC=C(C(=O)O)C=C1)C | C10H14N2O4S
